US08877779B2
To chroman-4-ylmethanol (15.0 g), methylene chloride (80 ml) and triethylamine (12.9 ml) was added dropwise methanesulfonyl chloride (6.85 ml) under ice-cooling, and the mixture was stirred for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with methylene chloride. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated to give chroman-4-ylmethyl methanesulfonate.

reactant | chroman-4-ylmethanol | 15.0 g | O1CCC(C2=CC=CC=C12)CO | C10H12O2
reactant | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 12.9 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.85 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | chroman-4-ylmethyl methanesulfonate | CS(=O)(=O)OCC1CCOC2=CC=CC=C12 | C11H14O4S
